US07060827B2
In like manner to the preparation of N2-(3,4-ethylenedioxyphenyl)-5-fluoro-N4-[4-(2-hydroxy-1,1-dimethylethyl)phenyl]-pyrimidine-2,4-diamine, N4-[4-[ethoxycarbonyl(dimethyl)methyl]phenyl]-N2-(3,4-ethylenedioxyphenyl)-5-fluoro-2,4-pyrimidinediamine was reduced with DIBALH to give N2-(3,4-ethylenedioxyphenyl)-5-fluoro-N4-[4-(2-hydroxy-1,1-dimethylethyl)phenyl]-2,4-pyrimidinediamine. 1H NMR (DMSO-d6): δ 9.23 (s, 1H), 8.94 (s, 1H), 8.01 (d, 1H, J=3.5 Hz), 7.63 (d, 2H, J=8.8 Hz), 7.31–7.27 (m, 3H), 6.98 (dd, 1H, J=2.9 and 8.8 Hz), 6.65 (d, 1H, J=8.8 Hz), 4.65 (t, 1H, J=5.3 Hz), 4.17–4.16 (m, 4H), 3.39 (d, 2H, J=5.2 Hz), 1.20 (s, 6H). 8.9 Hz), LCMS: ret. time: 19.52 min.; purity: 100%; MS (m/e): 411 (MH+).

reactant | N4-[4-[ethoxycarbonyl(dimethyl)methyl]phenyl]-N2-(3,4-ethylenedioxyphenyl)-5-fluoro-2,4-pyrimidinediamine | C(C)OC(=O)C(C1=CC=C(C=C1)NC1=NC(=NC=C1F)NC1=CC2=C(C=C1)OCCO2)(C)C | C24H25FN4O4
reactant | DIBALH | CC(C)C[AlH]CC(C)C
product | N2-(3,4-ethylenedioxyphenyl)-5-fluoro-N4-[4-(2-hydroxy-1,1-dimethylethyl)phenyl]-2,4-pyrimidinediamine | C1OC=2C=C(C=CC2OC1)NC1=NC=C(C(=N1)NC1=CC=C(C=C1)C(CO)(C)C)F | C22H23FN4O3
